US07723332B2
According to general procedure C, 4-Bromobenzene sulfonyl chloride (0.40 g, 1.56 mmol) and piperidine (0.38 mL, 3.90 mmol) were stirred together in dry dichloromethane (5 mL) for 16 hours. 1-[(4-bromophenyl)sulfonyl]piperidine (0.13 g) was provided after purification. HRMS: calcd for C11H14BrNO2S+H+, 304.00014; found (ESI, [M+H]+), 304.0009. HPLC purity 99.2% at 210-370 nm, 9.8 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min., 85/15-5/95 (ammonium formate buffer pH=3.5/ACN+MeOH) for 10 min., hold 4 min.

reactant | 4-Bromobenzene sulfonyl chloride | 1.56 mmol, 0.40 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | piperidine | 3.90 mmol, 0.38 mL | N1CCCCC1 | C5H11N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-[(4-bromophenyl)sulfonyl]piperidine | 0.13 g | BrC1=CC=C(C=C1)S(=O)(=O)N1CCCCC1 | C11H14BrNO2S
